US05750531
Step 1: 5,6-Dimethyl-2-(1,2,3,4-tetrahydroisoquinolin-2-yl)-4-hydroxypyrimidine
In accordance with the same procedure as in Step 2 of Example 57, except that 5,6-dimethyl-2-chloro-4-hydroxypyrimidine (6.0 g, 37.8 mmol) prepared in the Step 2 of Example 65 and 1,2,3,4-tetrahydroisoquinoline(10 ml, 79.9 mmol) were used as starting materials, 7.8 g of the titled compound was prepared. (Yield: 81%)

reactant | 5,6-dimethyl-2-chloro-4-hydroxypyrimidine | 37.8 mmol, 6.0 g | CC=1C(=NC(=NC1C)Cl)O | C6H7ClN2O
reactant | 1,2,3,4-tetrahydroisoquinoline | 79.9 mmol, 10 ml | C1NCCC2=CC=CC=C12 | C9H11N
product | 5,6-Dimethyl-2-(1,2,3,4-tetrahydroisoquinolin-2-yl)-4-hydroxypyrimidine | 7.8 g, Yield: 81% | CC=1C(=NC(=NC1C)N1CC2=CC=CC=C2CC1)O | C15H17N3O
